**************************************************
* Manufacturer:           Würth Elektronik
* Kinds:                  SMT Mono-color Chip LED Waterclear
* Matchcode:              WL-SMCW
* Library Type:           Pspice
* Version:                rev22b
* Created/modified by:    Ella      
* Date and Time:          2022-11-09
* Team:                   eiSos EDA Service  
* Contact:                libraries@we-online.com
**************************************************
* Copyright(C) 2022 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************
.subckt SMCW_0603_150060AS75000  1  2
D1 2 1 SMCW
.MODEL SMCW D
+ IS=10.010E-21
+ N=1.8643
+ RS=1.0000E-6
+ IKF=999
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=100
+ TT=5.0000E-9
.ends
******
.subckt SMCW_0603_150060BS75000  1  2
D1 2 1 SMCW
.MODEL SMCW D
+ IS=316.72E-15
+ N=3.9746
+ RS=1.2476
+ IKF=130.15E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=10.00E-6
+ TT=5.0000E-9
.ends
******
.subckt SMCW_0603_150060GS75000  1  2
D1 2 1 SMCW
.MODEL SMCW D
+ IS=1.3359E-12
+ N=3.7918
+ RS=1.0646
+ IKF=1.7269E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=100
+ IBV=10.00E-6
+ TT=5.0000E-9
.ends
******
.subckt SMCW_0603_150060RS75000  1  2
D1 2 1 SMCW
.MODEL SMCW D
+ IS=39.260E-18
+ N=2.2264
+ RS=1.0000E-6
+ IKF=.13281
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=100
+ IBV=10.00E-6
+ TT=5.0000E-9
.ends
******
.subckt SMCW_0603_150060SS75000  1  2
D1 2 1 SMCW
.MODEL SMCW D
+ IS=246.63E-21
+ N=1.8995
+ RS=1.0000E-6
+ IKF=.24821
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=100
+ IBV=10.00E-6
+ TT=5.0000E-9
.ends
******
.subckt SMCW_0603_150060VS75000  1  2
D1 2 1 SMCW
.MODEL SMCW D
+ IS=10.010E-21
+ N=1.9077
+ RS=1.0000E-6
+ IKF=32.936E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=10.00E-6
+ TT=5.0000E-9
.ends
******
.subckt SMCW_0603_150060YS75000  1  2
D1 2 1 SMCW
.MODEL SMCW D
+ IS=10.010E-21
+ N=1.8441
+ RS=1.0000E-6
+ IKF=1.0000E3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=10.00E-6
+ TT=5.0000E-9
.ends
******
.subckt SMCW_0603_150060BS84000  1  2
D1 2 1 SMCW
.MODEL SMCW D
+ IS=695.94E-6
+ N=5
+ RS=2.4677
+ IKF=16.109E-12
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
+ TT=5.0000E-9
.ends
******
.subckt SMCW_0603_150060GS84000  1  2
D1 2 1 SMCW
.MODEL SMCW D
+ IS=695.94E-6
+ N=5
+ RS=2.4677
+ IKF=16.109E-12
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
+ TT=5.0000E-9
.ends
******
.subckt SMCW_0603_150060RS86000  1  2
D1 2 1 SMCW
.MODEL SMCW D
+ IS=1.0025E-15
+ N=2.2259
+ RS=.3926
+ IKF=240.91E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
+ TT=5.0000E-9
.ends
******
.subckt SMCW_0603_150060VS86000  1  2
D1 2 1 SMCW
.MODEL SMCW D
+ IS=557.55E-18
+ N=2.1602
+ RS=.37378
+ IKF=236.66E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
+ TT=5.0000E-9
.ends
******
.subckt SMCW_0603_150060YS86000  1  2
D1 2 1 SMCW
.MODEL SMCW D
+ IS=824.78E-18
+ N=2.2038
+ RS=.38595
+ IKF=240.07E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
+ TT=5.0000E-9
.ends
******
.subckt SMCW_0603_150060AS75020  1  2
D1 2 1 SMCW
.MODEL SMCW D
+ IS=678.87E-18
+ N=2.1818
+ RS=.37963
+ IKF=238.04E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=10.00E-6
+ TT=5.0000E-9
.ends
******
.subckt SMCW_0603_150060BS75020  1  2
D1 2 1 SMCW
.MODEL SMCW D
+ IS=7.6676E-9
+ N=5
+ RS=2.6261
+ IKF=1.3194E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=10.00E-6
+ TT=5.0000E-9
.ends
******
.subckt SMCW_0603_150060GS75020  1  2
D1 2 1 SMCW
.MODEL SMCW D
+ IS=201.81E-12
+ N=5
+ RS=3.4664
+ IKF=29.301E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=10.00E-6
+ TT=5.0000E-9
.ends
******
.subckt SMCW_0603_150060RS75020  1  2
D1 2 1 SMCW
.MODEL SMCW D
+ IS=1.0025E-15
+ N=2.2259
+ RS=.3926
+ IKF=240.91E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=10.00E-6
+ TT=5.0000E-9
.ends
******
.subckt SMCW_0603_150060SS75020  1  2
D1 2 1 SMCW
.MODEL SMCW D
+ IS=46.043E-12
+ N=3.6830
+ RS=1.0000E-6
+ IKF=98.960E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=10.00E-6
+ TT=5.0000E-9
.ends
******
.subckt SMCW_0603_150060VS75020  1  2
D1 2 1 SMCW
.MODEL SMCW D
+ IS=557.55E-18
+ N=2.1602
+ RS=.37378
+ IKF=236.66E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=10.00E-6
+ TT=5.0000E-9
.ends
*****
.subckt SMCW_0603_150060YS75020  1  2
D1 2 1 SMCW
.MODEL SMCW D
+ IS=824.78E-18
+ N=2.2038
+ RS=.38595
+ IKF=240.07E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=10.00E-6
+ TT=5.0000E-9
.ends
******
.subckt SMCW_0603_150060AS75003  1  2
D1 2 1 SMCW
.MODEL SMCW D
+ IS=1.0025E-15
+ N=2.2259
+ RS=.3926
+ IKF=240.91E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=100
+ IBV=10.00E-6
+ TT=5.0000E-9
.ends
******
.subckt SMCW_0603_150060BS75003  1  2
D1 2 1 SMCW
.MODEL SMCW D
+ IS=695.94E-6
+ N=5
+ RS=2.4677
+ IKF=16.109E-12
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=10.00E-6
+ TT=5.0000E-9
.ends
******
.subckt SMCW_0603_150060GS75003  1  2
D1 2 1 SMCW
.MODEL SMCW D
+ IS=695.94E-6
+ N=5
+ RS=2.4677
+ IKF=16.109E-12
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=10.00E-6
+ TT=5.0000E-9
.ends
******
.subckt SMCW_0603_150060RS75003  1  2
D1 2 1 SMCW
.MODEL SMCW D
+ IS=1.0025E-15
+ N=2.2259
+ RS=.3926
+ IKF=240.91E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=10.00E-6
+ TT=5.0000E-9
.ends
******
.subckt SMCW_0603_150060SS75003  1  2
D1 2 1 SMCW
.MODEL SMCW D
+ IS=46.043E-12
+ N=3.6830
+ RS=1.0000E-6
+ IKF=98.960E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=10.00E-6
+ TT=5.0000E-9
.ends
******
.subckt SMCW_0603_150060VS75003  1  2
D1 2 1 SMCW
.MODEL SMCW D
+ IS=1.0025E-15
+ N=2.2259
+ RS=.3926
+ IKF=240.91E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=10.00E-6
+ TT=5.0000E-9
.ends
******
.subckt SMCW_0603_150060YS75003  1  2
D1 2 1 SMCW
.MODEL SMCW D
+ IS=3.0166E-9
+ N=4.9950
+ RS=1.0000E-6
+ IKF=999
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=10.00E-6
+ TT=5.0000E-9
.ends
******
.subckt SMCW_0805_150080AS75000  1  2
D1 2 1 SMCW
.MODEL SMCW D
+ IS=10.010E-21
+ N=1.8643
+ RS=1.0000E-6
+ IKF=999
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=10.00E-6
+ TT=5.0000E-9
.ends
******
.subckt SMCW_0805_150080BS75000  1  2
D1 2 1 SMCW
.MODEL SMCW D
+ IS=2.3621E-12
+ N=4.7136
+ RS=.9458
+ IKF=930.15E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=10.00E-6
+ TT=5.0000E-9
.ends
******
.subckt SMCW_0805_150080GS75000  1  2
D1 2 1 SMCW
.MODEL SMCW D
+ IS=906.98E-12
+ N=4.4982
+ RS=1.5743
+ IKF=518.93E-9
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=10.00E-6
+ TT=5.0000E-9
.ends
******
.subckt SMCW_0805_150080RS75000  1  2
D1 2 1 SMCW
.MODEL SMCW D
+ IS=10.000E-21
+ N=1.6992
+ RS=1.0000E-6
+ IKF=1.2373E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=10.00E-6
+ TT=5.0000E-9
.ends
******
.subckt SMCW_0805_150080SS75000  1  2
D1 2 1 SMCW
.MODEL SMCW D
+ IS=177.33E-21
+ N=1.8781
+ RS=1.0000E-6
+ IKF=.24756
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=10.00E-6
+ TT=5.0000E-9
.ends
******
.subckt SMCW_0805_150080VS75000  1  2
D1 2 1 SMCW
.MODEL SMCW D
+ IS=10.000E-21
+ N=1.8458
+ RS=1.0082
+ IKF=6.4818
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=10.00E-6
+ TT=5.0000E-9
.ends
******
.subckt SMCW_0805_150080YS75000  1  2
D1 2 1 SMCW
.MODEL SMCW D
+ IS=10.000E-21
+ N=1.8000
+ RS=1.0003E-6
+ IKF=1.8092E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=10.00E-6
+ TT=5.0000E-9
.ends
******
.subckt SMCW_1206_150120AS75000  1  2
D1 2 1 SMCW
.MODEL SMCW D
+ IS=10.010E-21
+ N=1.8571
+ RS=1.0000E-6
+ IKF=999
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=10.00E-6
+ TT=5.0000E-9
.ends
******
.subckt SMCW_1206_150120BS75000  1  2
D1 2 1 SMCW
.MODEL SMCW D
+ IS=567.56E-18
+ N=3.5950
+ RS=.53756
+ IKF=743.89E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=10.00E-6
+ TT=5.0000E-9
.ends
******
.subckt SMCW_1206_150120GS75000  1  2
D1 2 1 SMCW
.MODEL SMCW D
+ IS=4.8571E-12
+ N=4.8999
+ RS=1.0169
+ IKF=951.49E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=10.00E-6
+ TT=5.0000E-9
.ends
******
.subckt SMCW_1206_150120RS75000  1  2
D1 2 1 SMCW
.MODEL SMCW D
+ IS=227.31E-21
+ N=1.8314
+ RS=.21987
+ IKF=642.81E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=10.00E-6
+ TT=5.0000E-9
.ends
******
.subckt SMCW_1206_150120SS75000  1  2
D1 2 1 SMCW
.MODEL SMCW D
+ IS=10.012E-21
+ N=1.7421
+ RS=1.0000E-6
+ IKF=.26961
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=10.00E-6
+ TT=5.0000E-9
.ends
******
.subckt SMCW_1206_150120VS75000  1  2
D1 2 1 SMCW
.MODEL SMCW D
+ IS=10.010E-21
+ N=1.8390
+ RS=1.0000E-6
+ IKF=1.0000E3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=10.00E-6
+ TT=5.0000E-9
.ends
******
.subckt SMCW_1206_150120YS75000  1  2
D1 2 1 SMCW
.MODEL SMCW D
+ IS=10.010E-21
+ N=1.8505
+ RS=1.0000E-6
+ IKF=.26942
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
+ TT=5.0000E-9
.ends
******
.subckt SMCW_1206_150120BS87000  1  2
D1 2 1 SMCW
.MODEL SMCW D
+ IS=27.217E-18
+ N=3.3922
+ RS=.54596
+ IKF=413.64E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
+ TT=5.0000E-9
.ends
******
.subckt SMCW_1206_150120GS87000  1  2
D1 2 1 SMCW
.MODEL SMCW D
+ IS=84.972E-18
+ N=3.3921
+ RS=.54619
+ IKF=413.52E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
+ TT=5.0000E-9
.ends
******
.subckt SMCW_1206_150120RS87000  1  2
D1 2 1 SMCW
.MODEL SMCW D
+ IS=8.3603E-18
+ N=2.1908
+ RS=1.0000E-6
+ IKF=.23331
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
+ TT=5.0000E-9
.ends
******
.subckt SMCW_1206_150120VS87000  1  2
D1 2 1 SMCW
.MODEL SMCW D
+ IS=8.3603E-18
+ N=2.1908
+ RS=1.0001E-6
+ IKF=.23331
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
+ TT=5.0000E-9
.ends
******
.subckt SMCW_1206_150120YS87000  1  2
D1 2 1 SMCW
.MODEL SMCW D
+ IS=8.3603E-18
+ N=2.1908
+ RS=1.0001E-6
+ IKF=.23331
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
+ TT=5.0000E-9
.ends
******